US07781426B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(bromomethyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (50.4 mg, 0.0894 mmol) in MeCN (1 mL) was added ethyl trans-4-[(ethylamino)methyl]cyclohexanecarboxylate (20 mg, 0.0894 mmol) and i—Pr2NEt (240 μL, 0.179 mmol). The reaction was stirred at room temperature for 16 hours and then concentrated. Purification of the residue by PTLC (50% EtOAc/hexanes) afforded ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzyl](ethyl)amino]methyl}cyclohexyl)acetate. Rf=0.42 (50% EtOAc/hexanes). LCMS=711.3 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.89 (s, 1H), 7.79 (s, 2H), 7.56-7.52 (m, 2H), 7.48 (s, 1H), 5.73 (d, J=7.8 Hz, 1H), 5.00 (d, J=16.0 Hz, 1H), 4.46 (d, J=16.2 Hz, 1H), 4.11 (q, J=6.9 Hz, 2H), 4.04-3.98 (m, 1H), 3.66-3.53 (m, 2H), 2.47 (q, J=7.1 Hz, 2H), 2.19 (d, J=7.1 Hz, 2H), 2.14 (d, J=7.1 Hz, 2H), 1.80-1.64 (m, 5H), 1.38-1.32 (m, 1H), 1.23 (t, J=7.1 Hz, 3H), 0.99 (t, J=7.1 Hz, 3H), 0.97-0.79 (m, 4H), 0.76 (d, J=6.6 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(bromomethyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.0894 mmol, 50.4 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)CBr)C)(F)F | C21H15BrF9NO2
reactant | ethyl trans-4-[(ethylamino)methyl]cyclohexanecarboxylate | 0.0894 mmol, 20 mg | C(C)NC[C@@H]1CC[C@H](CC1)C(=O)OCC | C12H23NO2
reactant | i—Pr2NEt | 0.179 mmol, 240 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | MeCN | 1 mL | CC#N | C2H3N
product | ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzyl](ethyl)amino]methyl}cyclohexyl)acetate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(CN(CC)C[C@@H]2CC[C@H](CC2)CC(=O)OCC)C=CC(=C1)C(F)(F)F)C)(F)F | C34H39F9N2O4
